US07553969B1
(2) Synthesis of 2-(4-benzyloxy-3-t-butylphenyl)-1-methylthiomethylethylcarbamic acid benzyl ester
To a solution of 2-(4-benzyloxy-3-t-butylphenyl)-1-toluenesulfonyloxymethylethylcarbamic acid benzyl ester 2.4 g, 3.99 mmol) in ethanol (40 ml), a solution of sodium methanethiolate (560 mg, 7.99 mmol) in methanol (4 ml) was added and stirred at 40° C. for 3 hours. The mixture was evaporated under reduced pressure to remove the solvent, mixed with a saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: n-hexane:ethyl acetate=5:1), giving the titled compound (1.63 g, 86%).

reactant | 2-(4-benzyloxy-3-t-butylphenyl)-1-toluenesulfonyloxymethylethylcarbamic acid benzyl ester | 3.99 mmol, 2.4 g | C(C1=CC=CC=C1)OC(NC(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)(C)C)COS(=O)(=O)C=1C(=CC=CC1)C)=O | C35H39NO6S
reactant | sodium methanethiolate | 7.99 mmol, 560 mg | C[S-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | methanol | 4 ml | CO | CH4O
product | 2-(4-benzyloxy-3-t-butylphenyl)-1-methylthiomethylethylcarbamic acid benzyl ester | 1.63 g, 86% | C(C1=CC=CC=C1)OC(NC(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)(C)C)CSC)=O | C29H35NO3S
